US08008298B2
4-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzoic acid was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 4-carboxyphenylboronic acid following general procedures as described in these Examples. Silica gel chromatography using 50-100% [5% AcOH:EtOAc]/Hexanes as eluant gave 10 mg (6%) of a pale brown solid. M+H=324.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzoic acid | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C(=O)O)C=C2)(C)C | C18H17N3O3
